US07176324B1
A reaction flask was charged with 300 g (1.4 mole) 1,1,2,3,3-pentamethyl-hexahydro-4-indanol, 258 g (2.5 mole) diethoxymethane, 0.25 liter toluene, and 5 g boron trifluoride etherate complex. The reaction mass was heated to 100° C. and methanol and lite organics were collected in a Dean Stark trap (190 g recovered). After aging the reaction for 2 hrs the reaction was cooled to 25° C. and acid catalyst was quenched with 100 g of 10% aqueous sodium carbonate. The mass was transferred to a separatory funnel and water washed. The organic layer was separated and purified by fractional distillation. The procedure afforded a 68% yield (256 g) of 1,1,2,3,3-pentamethyl-octahydro-4-(ethoxymethoxy)-1H-indene.

reactant | 1,1,2,3,3-pentamethyl-hexahydro-4-indanol | 1.4 mole, 300 g | CC1(C(C(C2C(CCCC12)O)(C)C)C)C | C14H26O
reactant | diethoxymethane | 2.5 mole, 258 g | C(C)OCOCC | C5H12O2
solvent | toluene | 0.25 liter | C1(=CC=CC=C1)C | C7H8
product | 1,1,2,3,3-pentamethyl-octahydro-4-(ethoxymethoxy)-1H-indene | 256 g, 68% yield | CC1(C(C(C2C(CCCC12)OCOCC)(C)C)C)C | C17H32O2
